US07405299B2
Preparation of 2-(Pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole-3-boronic acid
Place tetrahydrofuran (60.0 mL) in a 100 mL round-bottom flask equipped with a temperature probe, a magnetic stirrer, and a septum and put under a nitrogen atmosphere. Add 3-bromo-2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole (Preparation 4, 3.00 g, 11.4 mmol) and triisopropyl borate (6.80 mL, 29.5 mmol). Cool the mixture to −78° C. using a dry ice/acetone bath. Add 1.41M n-butyllithium in hexanes (19.3 mL, 27.3 mmol) dropwise via a syringe pump over 10 min keeping the temperature below −40° C. Remove the dry ice/acetone bath and allow the reaction mixture to warm to room temperature. Add saturated aqueous ammonium chloride (20 mL) and extract with chloroform (2×150 mL). Combine the organic layers, dry over solid sodium chloride, and remove the solvent under reduced pressure to afford an oil. Purify by normal phase flash chromatography (120 g Biotage KP-Sil 40 L: ethyl acetate for 25 min, 0-10% methanol in ethyl acetate in ramp over 15 min, then 10% methanol in ethyl acetate) to obtain the title product (1.43 g, 55%). MS ES+ m/e 230 (M+1).

reactant | 3-bromo-2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole | 11.4 mmol, 3.00 g | BrC1=C2N(N=C1C1=NC=CC=C1)CCC2 | C11H10BrN3
reactant | triisopropyl borate | 29.5 mmol, 6.80 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | n-butyllithium | 1.41M | C(CCC)[Li]
solvent | tetrahydrofuran | 60.0 mL | O1CCCC1 | C4H8O
product | 2-(Pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole-3-boronic acid | 1.43 g, 55% | N1=C(C=CC=C1)C=1C(=C2N(N1)CCC2)B(O)O | C11H12BN3O2
